US05512680
(±)-3-Cyano-3-(3,4-dichlorophenyl)propionic acid (III)
A mixture of 93 g (0.50 mol) of 3,4-dichlorophenylacetonitrile and 64 g (0.55 mol) of sodium chloroacetate is reacted for 4 hours at -33° C. in 500 ml of liquid ammonia, in the presence of 21 g (0.54 mol) of sodium amide. After evaporation of the ammonia, the residue is taken up with water and then with isopropyl ether and is acidified to pH<3 with hydrochloric acid. The organic phase is washed with water to pH>3, separated off by decantation, dried over magnesium sulfate and concentrated to dryness. The residue is solidified in toluene and characterized by proton NMR. M.p.=106° C.

reactant | 3,4-dichlorophenylacetonitrile | 0.50 mol, 93 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | sodium chloroacetate | 0.55 mol, 64 g | ClCC(=O)[O-].[Na+]
reactant | ammonia | N | H3N
reactant | sodium amide | 0.54 mol, 21 g | [NH2-].[Na+]
product | (±)-3-Cyano-3-(3,4-dichlorophenyl)propionic acid | C(#N)C(CC(=O)O)C1=CC(=C(C=C1)Cl)Cl | C10H7Cl2NO2
